US05760054
A mixture of 15.4 g 4-piperidone hydrochloride hydrate, 200 mL ether, 100 mL saturated aqueous Na2CO3 solution and 21.8 g di-t-butyldicarbonate was vigorously stirred for 48 h. The layers were separated and the organic layer was washed with two 150 mL portions of 10% aqueous citric acid, dried over MgSO4. Removal of solvents under reduced pressure gave 18.9 g (95%) N-t-butyloxycarbonyl-4-piperidone as a white solid.

reactant | 4-piperidone hydrochloride hydrate | 15.4 g | O.Cl.N1CCC(CC1)=O
reactant | Na2CO3 | 100 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | di-t-butyldicarbonate | 21.8 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | ether | 200 mL | CCOCC | C4H10O
product | N-t-butyloxycarbonyl-4-piperidone | 18.9 g, 95% | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
